US08802659B2
1-[4-Bromo-6-(trans-4-tert-butyl-cyclohexyloxy)-quinolin-2-ylmethyl]-azetidine-3-carboxylic acid methyl ester
Synthesized as per 1-[6-(trans-4-tert-Butyl-cyclohexyloxy)-4-trifluoromethyl-quinolin-2-ylmethyl]-azetidine-3-carboxylic acid methyl ester using 4-Bromo-6-(trans-4-tert-butyl-cyclohexyloxy)-quinoline-2-carbaldehyde as starting material. ESI-MS (M+H+): 489.20/491.20.

reactant | 1-[6-(trans-4-tert-Butyl-cyclohexyloxy)-4-trifluoromethyl-quinolin-2-ylmethyl]-azetidine-3-carboxylic acid methyl ester | COC(=O)C1CN(C1)CC1=NC2=CC=C(C=C2C(=C1)C(F)(F)F)O[C@@H]1CC[C@H](CC1)C(C)(C)C | C26H33F3N2O3
reactant | 4-Bromo-6-(trans-4-tert-butyl-cyclohexyloxy)-quinoline-2-carbaldehyde | BrC1=CC(=NC2=CC=C(C=C12)O[C@@H]1CC[C@H](CC1)C(C)(C)C)C=O | C20H24BrNO2
product | 1-[4-Bromo-6-(trans-4-tert-butyl-cyclohexyloxy)-quinolin-2-ylmethyl]-azetidine-3-carboxylic acid methyl ester | COC(=O)C1CN(C1)CC1=NC2=CC=C(C=C2C(=C1)Br)O[C@@H]1CC[C@H](CC1)C(C)(C)C | C25H33BrN2O3
